US04959364
Preparation of 1-(1-oxo-2-propenyl)pyrrolidine
Acryloyl chloride (9 g, 0.1 mole) was added by syringe to ethyl ether (40 ml) and the solution cooled to -50° C. A solution of pyrrolidine (7.1 g, 0.1 mole) in ethyl ether (20 ml) was added dropwise. A solution of triethylamine (15.3 ml) was added slowly over 10 minutes. The reaction was slowly allowed to warm to room temperature and stirred for 12 hours. Water (50 ml ) was added, the layers were separated and the aqueous layer extracted with ethyl ether (100 ml) and methylene chloride (2×75 ml), and combined with the organic layer above, dried over sodium sulfate, filtered, and the solvents removed to give an oil. The product was purified by chromatography on silica. The structure was confirmed by NMR.

reactant | Acryloyl chloride | 0.1 mole, 9 g | C(C=C)(=O)Cl | C3H3ClO
reactant | pyrrolidine | 0.1 mole, 7.1 g | N1CCCC1 | C4H9N
reactant | triethylamine | 15.3 ml | C(C)N(CC)CC | C6H15N
reactant | Water | 50 ml | O | H2O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 40 ml | C(C)OCC | C4H10O
product | 1-(1-oxo-2-propenyl)pyrrolidine | O=C(C=C)N1CCCC1 | C7H11NO
